US04053514
C. 3-[3-[3-(Dimethylamino)propoxy]phenyl]-2,3,3a,4-tetrahydro-2-methylindeno[1,2-c]pyrazole, hydrochloride (1:1)
A stirred solution of 8.6 g (0.024 mole) of 2-[[3-[3-(dimethylamino)propoxy]phenyl]methylene]-2,3-dihydro-1H-inden-1-one hydrochloride from part B and 1.3 g (0.028 mole) of methyl hydrazine in 50 ml of methanol is heated at reflux for 2 hours. After cooling, the solvent is evaporated to give 1.0 g of an amber oily residue.

reactant | 2-[[3-[3-(dimethylamino)propoxy]phenyl]methylene]-2,3-dihydro-1H-inden-1-one hydrochloride | 0.024 mole, 8.6 g | Cl.CN(CCCOC=1C=C(C=CC1)C=C1C(C2=CC=CC=C2C1)=O)C
reactant | methyl hydrazine | 0.028 mole, 1.3 g | CNN | CH6N2
solvent | methanol | 50 ml | CO | CH4O
product | 3-[3-[3-(Dimethylamino)propoxy]phenyl]-2,3,3a,4-tetrahydro-2-methylindeno[1,2-c]pyrazole, hydrochloride | 1.0 g | Cl.CN(CCCOC=1C=C(C=CC1)C1C2C(=NN1C)C1=CC=CC=C1C2)C | InChI=1S/C22H27N3O.ClH/c1-24(2)12-7-13-26-18-10-6-9-17(14-18)22-20-15-16-8-4-5-11-19(16)21(20)23-25(22)3;/h4-6,8-11,14,20,22H,7,12-13,15H2,1-3H3;1H
